US04391806
A mixture was prepared by adding 5.0 g of 2-chloro-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole to 30 ml of morpholine and this was stirred and heated at reflux for 24 hours. It was then poured into 200 ml of ice water. A tan solid formed and this was separated by filtration to give 2-(4-morpholinyl)-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole melting at 187.5°-188.5° C.

reactant | 2-chloro-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole | 5.0 g | ClC1=NN2C(=NC3=C2CCCC3)C=C1 | C10H10ClN3
reactant | morpholine | 30 ml | N1CCOCC1 | C4H9NO
product | 2-(4-morpholinyl)-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole | N1(CCOCC1)C1=NN2C(=NC3=C2CCCC3)C=C1 | C14H18N4O
